Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:11]([C:8]([C:6]([C:4](=[O:3])[H:5])[H:7])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.67191742378
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4][H:5])[C:9]([H:10])([H:11])[O:12][H:13],6.664149415680001
[C:1].[C:2]#[C:3][O:4][C:5][H:6]>>[C:1][C:2]#[C:3][O:4][C:5][H:6],-6.263417542719999
[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],0.11761523533
[H:10].[H:1][C:2]([H:3])[O:4][C:5][C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.86179815308
[O:1][C:2][C:3].[O:4][H:5]>>[O:1]=[C:2]=[C:3][O:4][H:5],-5.587413066799999
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.14607637735
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9],5.55249401977
[H:9].[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-4.50923629166
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],7.2394242
[O:1][C:2]#[C:3][H:4]>>[C:2]#[C:3][H:4].[O:1],6.9826636793
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.67591178079
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]2[O:7][C@:8]12[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],1.00418591205
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]=[C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],9.12411008288
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:8](\[H:9])[O:10][H:11].[H:7],4.87638513511
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.96390370873
[H:11].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.44812596943
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],3.5937754853699992
[H:1][O:2][C:3]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.23462359089
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-1.81837735996
[C:4]=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.797371437130001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[O:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11][O:12]1,2.6134144845900003
[H:11].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.08500200277
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.57871959092
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-4.85107121906
[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.0950631285800005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],1.5283437517299998
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5],5.64432841839
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-4.020202340919998
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.58928378937
